US09416132B2
To the solution of compound (tetrahydro-2H-thiopyran-4-yl)methanamine (150 mg, 1.14 mmol) and compound 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine (358 mg, 1.14 mmol) in 3 mL DMSO was added DIEA (0.22 mL, 2.28 mmol) and 10 mg CsF, the solvent was stirred for 5 h at 120° C., Then the mixture was purified by HPLC to afford the compound N-((tetrahydro-2H-thiopyran-4-yl)methyl)-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-amine (26 mg, 30%) as yellow oil.

reactant | (tetrahydro-2H-thiopyran-4-yl)methanamine | 1.14 mmol, 150 mg | S1CCC(CC1)CN | C6H13NS
reactant | 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine | 1.14 mmol, 358 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F | C13H7ClF3N3O
reactant | DIEA | 2.28 mmol, 0.22 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | CsF | 10 mg | [F-].[Cs+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | N-((tetrahydro-2H-thiopyran-4-yl)methyl)-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-amine | 26 mg, 30% | S1CCC(CC1)CNC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F | C19H19F3N4OS
